US05350861
To a boiling solution of 120 ml of absolute toluene and 7.5 g (0.25 mol) of sodium hydride there are added dropwise 79.9 g (0.199 mol) of 2-(4-chlorobenzyl)-N-(2,4,6-trimethylphenylacetyl)-sarcosine ethyl ester in 200 ml of absolute toluene, and the batch is refluxed while being monitored by thin-layer chromatography. When the reaction is complete, ethanol is added dropwise, while cooling in an ice-bath, until no more hydrogen escapes. After the mixture has been evaporated under reduced pressure, the residue is taken up in water and the mixture is acidified with concentrated hydrochloric acid at 0° C. to 20° C. The precipitate is filtered off with suction and recrystallised from chloroform/n-hexane. 48.4 g (68.4% of Theory) of 5-(4-chlorobenzyl)-1-methyl-3-(2,4,6-trimethylphenyl)-pyrrolidine-2,4-dione of melting point >230° C. are obtained.

reactant | sodium hydride | 0.25 mol, 7.5 g | [H-].[Na+]
reactant | 2-(4-chlorobenzyl)-N-(2,4,6-trimethylphenylacetyl)-sarcosine ethyl ester | 0.199 mol, 79.9 g | C(C)OC(C(N(C)C(CC1=C(C=C(C=C1C)C)C)=O)CC1=CC=C(C=C1)Cl)=O | C23H28ClNO3
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-chlorobenzyl)-1-methyl-3-(2,4,6-trimethylphenyl)-pyrrolidine-2,4-dione | 48.4 g, 68.4% | ClC1=CC=C(CC2C(C(C(N2C)=O)C2=C(C=C(C=C2C)C)C)=O)C=C1 | C21H22ClNO2
